US05968954
1-(2,3-dihydro[1,4]benzoxathiin-5-yl)-4-(indan-2-ylamino)piperidine and its hemifumarate
0.17 g (1 mmol) of indan-2-ylamine hydrochloride is introduced into 7 ml of 1,2-dichloroethane and then, in order, 0.14 ml (1.5 mmol) of triethylamine, 0.25 g of 1-(2,3-dihydro[1,4]benzoxathiin-5-yl)piperid-4-one (Preparation 4), 0.32 g (1.5 mmol) of sodium triacetoxyborohydride and 58 μl (1 mmol) of acetic acid are added. The whole is stirred for 20 hours at room temperature and then poured into 10 ml of 1N sodium hydroxide solution and extracted twice with 25 ml of ether each time. The combined organic phases are washed and dried. Evaporation yields 0.36 g of the title product, which is converted into the hemifumarate by the action of a 2% solution of fumaric acid in ethanol. In that manner, 0.27 g of hemifumarate is obtained. M.p. (MK)=220-223° C.

reactant | indan-2-ylamine hydrochloride | 1 mmol, 0.17 g | Cl.C1C(CC2=CC=CC=C12)N
reactant | triethylamine | 1.5 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(2,3-dihydro[1,4]benzoxathiin-5-yl)piperid-4-one | 0.25 g | O1CCSC2=C1C=CC=C2N2CCC(CC2)=O | C13H15NO2S
reactant | sodium triacetoxyborohydride | 1.5 mmol, 0.32 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1 mmol, 58 μl | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | 1,2-dichloroethane | 7 ml | ClCCCl | C2H4Cl2
product | 1-(2,3-dihydro[1,4]benzoxathiin-5-yl)-4-(indan-2-ylamino)piperidine | 0.36 g | O1CCSC2=C1C=CC=C2N2CCC(CC2)NC2CC1=CC=CC=C1C2 | C22H26N2OS
